* SPICE netlist generated by Yosys 0.21+10 (git sha1 a21745052, gcc 13.1.6 -fPIC -Os)

.SUBCKT _paramod_multi_and_SIZE_s32'00000000000000000000000000000001 out e1
V0 e1 out DC 0
.ENDS _paramod_multi_and_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_and_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
X0 e1.0 e1.1 out __AND_
.ENDS _paramod_multi_and_SIZE_s32'00000000000000000000000000000010

.SUBCKT _paramod_multi_nand_SIZE_s32'00000000000000000000000000000001 out e1
V0 _NC0 W3 DC 0
V1 _NC1 e1 DC 0
V2 _NC2 out DC 0
.ENDS _paramod_multi_nand_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_nand_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
V0 _NC0 W3 DC 0
V1 _NC1 out DC 0
.ENDS _paramod_multi_nand_SIZE_s32'00000000000000000000000000000010

.SUBCKT _paramod_multi_nor_SIZE_s32'00000000000000000000000000000001 out e1
V0 e1 out DC 0
.ENDS _paramod_multi_nor_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_nor_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
X0 e1.0 e1.1 out __NOR_
.ENDS _paramod_multi_nor_SIZE_s32'00000000000000000000000000000010

.SUBCKT _paramod_multi_or_SIZE_s32'00000000000000000000000000000001 out e1
V0 e1 out DC 0
.ENDS _paramod_multi_or_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_or_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
X0 e1.1 e1.0 out __OR_
.ENDS _paramod_multi_or_SIZE_s32'00000000000000000000000000000010

.SUBCKT _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000001 out e1
V0 e1 out DC 0
.ENDS _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
X0 e1.0 e1.1 out __XOR_
.ENDS _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000010

.SUBCKT _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000011 out e1.0 e1.1 e1.2
X0 W1 W2 out __XNOR_
X1 W1 e1.1 e1.2 _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000001
.ENDS _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000011

.SUBCKT _paramod_multi_xor_SIZE_s32'00000000000000000000000000000001 out e1
V0 e1 out DC 0
.ENDS _paramod_multi_xor_SIZE_s32'00000000000000000000000000000001

.SUBCKT _paramod_multi_xor_SIZE_s32'00000000000000000000000000000010 out e1.0 e1.1
X0 e1.1 e1.0 out __XOR_
.ENDS _paramod_multi_xor_SIZE_s32'00000000000000000000000000000010

.SUBCKT multi_and out e1.0 e1.1 e1.2
X0 W1 W2 out __AND_
X1 W1 e1.1 e1.2 _paramod_multi_and_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_and_SIZE_s32'00000000000000000000000000000001
.ENDS multi_and

.SUBCKT multi_nand out e1.0 e1.1 e1.2
X0 W2 W1 out __NAND_
X1 W1 e1.1 e1.2 _paramod_multi_nand_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_nand_SIZE_s32'00000000000000000000000000000001
.ENDS multi_nand

.SUBCKT multi_nor out e1.0 e1.1 e1.2
X0 W1 W2 out __NOR_
X1 W1 e1.1 e1.2 _paramod_multi_nor_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_nor_SIZE_s32'00000000000000000000000000000001
.ENDS multi_nor

.SUBCKT multi_or out e1.0 e1.1 e1.2
X0 W2 W1 out __OR_
X1 W1 e1.1 e1.2 _paramod_multi_or_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_or_SIZE_s32'00000000000000000000000000000001
.ENDS multi_or

.SUBCKT multi_xnor out e1.0 e1.1 e1.2 e1.3 e1.4
X0 W1 W2 out __XNOR_
X1 W1 e1.2 e1.3 e1.4 _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000011
X2 W2 e1.0 e1.1 _paramod_multi_xnor_SIZE_s32'00000000000000000000000000000010
.ENDS multi_xnor

.SUBCKT multi_xor out e1.0 e1.1 e1.2
X0 W2 W1 out __XOR_
X1 W1 e1.1 e1.2 _paramod_multi_xor_SIZE_s32'00000000000000000000000000000010
X2 W2 e1.0 _paramod_multi_xor_SIZE_s32'00000000000000000000000000000001
.ENDS multi_xor

************************
* end of SPICE netlist *
************************

